US04603130
In the same manner as described in Example 3, N-methylhomopiperazine (2.6 g) and 2-chloromethyl-1-(2-ethoxyethyl)benzimidazole (2.38 g) obtained in the same manner as described in Reference Example 3 are reacted to give 1-(2-ethoxyethyl)-2-(4-methyl-1-homopiperazinyl)methylbenzimidazole (2.2 g) as a pale yellow liquid. This liquid is treated with fumaric acid (1.63 g), and the crude crystal thus obtained is recrystallized from a mixed solvent of ethyl acetate-ethanol to give 1-(2-ethoxyethyl)-2-(4-methyl-1-homopiperazinyl)methylbenzimidazole 3/2 fumarate semihydrate (2.2 g) as colorless prisms, m.p. 119°-121.5° C.

reactant | N-methylhomopiperazine | 2.6 g | CN1CCNCCC1 | C6H14N2
reactant | 2-chloromethyl-1-(2-ethoxyethyl)benzimidazole | 2.38 g | ClCC1=NC2=C(N1CCOCC)C=CC=C2 | C12H15ClN2O
product | 1-(2-ethoxyethyl)-2-(4-methyl-1-homopiperazinyl)methylbenzimidazole | 2.2 g | C(C)OCCN1C(=NC2=C1C=CC=C2)CN2CCN(CCC2)C | C18H28N4O
